Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Black stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old female with PMHx notable for dementia 
and hypertension who was referred to the ED from her PCP's 
office with two weeks of abdominal pain and black stools. 

On ___, patient presented to her PCP with aching and throbbing 
___ epigastric and mid-abdominal pain as well as constipation 
for several weeks. Pain began after several weeks of long 
standing constipation.  Yesterday took pepto bismol two days in 
a row and yesterday had a dark stool as well as today.  Pain is 
improved with a bowel movement.  Associated symptoms included 
anorexia, eructation, flatulence, constipation. She denied 
nausea, vomtiting, heartburn, diarrhea.  She was sent to ED for 
further evaluation. In the ED she reiterated a similar history 
and also endorsed feeling weak, tired and looking pale. Denied 
ibuprofen use. 

In the ED, initial VS were:  98 78 133/78 18 98% RA 
Exam notable for: DMM, pale, PCP rectal with black stool heme 
positive
Labs showed: Hb 13.6, Hct 41.9, WBC 5.8, platelets 162, Chem7 
normal, INR 1.0 
No imaging.
Received: 1 L IVF NS, Miralax, IV pantoprazole 40 mg
Transfer VS were:  74 126/74 18 98% RA 

GI was consulted and recommended admission to medicine for 
potential endoscopy and IV PPI. 
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, via a ___ phone interpreter, she 
reports "a long long time" of constipation and reports dark 
stool yesterday.  Her bowel movement yesterday improved her 
abdominal pain.  She currently denies abdominal pain.  She 
reports a long time of poor appetite as well and she hasn't been 
eating well.  She denies hematochezia or maroon stool.  She 
endorses abdominal pain in ___ (H pylori infection) and 
recalls taking antibiotics and this pain feels similar.  Denies 
fevers, chills, nausea, vomiting, shortness of breath, chest 
pain, lightheadedness. 

REVIEW OF SYSTEMS:  
(+) HPI 
(-) Night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, dysuria, hematuria.  
 
All other 10-system review negative in detail.  
 
Past Medical History:
Depression (no medications, formerly on celexa and 
amytriptiline)
Palpitations 
Colonic polyp ___ one polyp)
Osteoporosis 
Thyroid nodule (benign biopsy ___ 
Pseudophakia of both eyes 
Essential hypertension (formerly on Lopressor)
H. pylori infection ___ (treated with amox, flagyl and PPI 
for 2 week in ___ with resolution of epigastric pain)
Dementia 
Cervical stenosis of spine (Spondylosis no myolopathy MRI done 
at ___ ___
Calcified lung nodule (History of TB in her family, she was 
treated as a child)
 
Social History:
___
Family History:
Father died from an MI at ___. Mother died at age ___. One brother 
and one sister both died of ___.  No family history of 
IBD, PUD, or GI cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  98.0 148 / 90 96 16 96 RA 
GENERAL: NAD, well appearing female talkative and interactive   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, MAE spontaneously 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
=======================
VS:  97.5 134 / 68 70 18 98 Ra 
GENERAL: NAD, well appearing female talkative and interactive   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
RECTAL: guiac negative brown stool
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, MAE spontaneously 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:05AM BLOOD WBC-4.9 RBC-4.20 Hgb-12.7 Hct-38.9 MCV-93 
MCH-30.2 MCHC-32.6 RDW-13.2 RDWSD-45.1 Plt ___
___ 07:05AM BLOOD Glucose-79 UreaN-13 Creat-0.8 Na-144 
K-3.8 Cl-105 HCO3-25 AnGap-18
___ 07:05AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.1

DISCHARGE LABS:
===============
___ 01:45PM BLOOD WBC-5.8 RBC-4.51 Hgb-13.6 Hct-41.9 MCV-93 
MCH-30.2 MCHC-32.5 RDW-13.1 RDWSD-44.9 Plt ___
___ 01:45PM BLOOD Neuts-62.4 ___ Monos-5.7 Eos-2.6 
Baso-1.6* Im ___ AbsNeut-3.59 AbsLymp-1.58 AbsMono-0.33 
AbsEos-0.15 AbsBaso-0.09*
___ 01:45PM BLOOD ___ PTT-28.5 ___
___ 01:45PM BLOOD Glucose-93 UreaN-18 Creat-0.9 Na-144 
K-3.9 Cl-106 HCO3-26 AnGap-16
___ 01:45PM BLOOD ALT-14 AST-23 AlkPhos-91 TotBili-0.8
___ 01:45PM BLOOD Albumin-4.3

IMAGING:
=======
NONE

MICRO:
=====
___ 08:49 
HELICOBACTER ANTIGEN DETECTION, STOOL Results Pending 
 
Brief Hospital Course:
Ms. ___ is an ___ year old female with dementia, HTN, and a 
history of H pylori infection diagnosed in ___ treated with 
antibiotics, who presented to ___ on ___ with abdominal 
pain and report of black stools.

Patient was seen by her primary care physician on day of 
admission. Patient reported abdominal pain, constipation and 
black stools. Patient was noted to have guaiac positive stools 
and given concern for bleed, she was sent to the ED.

In the ED, she was hemodynamically stable. Labs revealed H/H 
13.6/30.6 with MCV of 93. Rectal exam revealed guaiac negative 
brown stool. Patient reported that abdominal pain had improved 
after a bowel movement. Her abdominal exam was benign. Her 
repeat H/H was stable and she had no evidence of bleed while in 
the hospital.

We suspect that her black stool and positive guaiac test may 
have been related to pepto bismol use given her normal rectal 
exam in the hospital, normal labs, and stable hemodynamics. It 
seems unlikely that a slow GI bleed would quickly resolve in 
such a short period of time. LFTs were normal. Her abdominal 
pain is likely related to her constipation but stool H pylori 
testing was sent although pending at discharge. 

**TRANSITIONAL ISSUES**
====================
- Patient discharged with prescriptions for colace, senna, and 
miralax.
- F/u stool antigen for H Pylori and consider re treatment based 
on results.
- Consider EGD if patient continues to have abdominal pain.
 
Medications on Admission:
Patient reports she does not take any medications. 
Per atrius records, takes a vitamin D and calcium supplement.
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*30 Capsule Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0 
3.  Senna 8.6 mg PO BID CONSTIPATION 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Constipation
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

What brought you into the hospital?
-You came to the hospital because of dark stools and concern for 
bleeding.

What happened while you were in the hospital?
-We checked your blood counts and they were normal.
-We checked your stool and there was no blood.

What should you do when you leave the hospital?
-You should try to increase your intake of fiber and eat prunes. 
They are helpful for constipation.
-We will also write you for medications to help with 
constipation: senna, Colace and miralax.  
-Please follow up with your primary care doctor.

Best,
Your ___ Team
 
Followup Instructions:
___